.SUBCKT NOR2BX2H7R AN B VDD VSS Z
*.PININFO AN:I B:I Z:O VDD:B VSS:B
MMN2 Z B VSS VSS nm1p2_svt_lp W=300n L=60n m=1
MMN0 Z net17 VSS VSS nm1p2_svt_lp W=300n L=60n m=1
MMP2 Z B net016 VDD pm1p2_svt_lp W=380n L=60n m=1
MMP1 net016 net17 VDD VDD pm1p2_svt_lp W=380n L=60n m=1
XXI3 AN VDD VSS net17 / INV pl=6e-08 pw=1.9e-07 nl=6e-08 nw=1.5e-07
.ENDS
