.SUBCKT NOR2X2H7R A B VDD VSS Y
*.PININFO A:I B:I Y:O VDD:B VSS:B
MNM0 Y B VSS VSS nm1p2_svt_lp W=300n L=60n m=1
MMN0 Y A VSS VSS nm1p2_svt_lp W=300n L=60n m=1
MPM0 Y B net015 VDD pm1p2_svt_lp W=380n L=60n m=1
MMP1 net015 A VDD VDD pm1p2_svt_lp W=380n L=60n m=1
.ENDS
